US06008243
A biphasic mixture of 3-bromofuran (2.90 mL, 32.1 mmol), benzene (70 mL), and 2N aqueous Na2CO3 (50 mL) was degassed and purged with argon. Tetrakis(triphenylphosphine) palladium(0) (3.7 g, 3.2 mmuol) and a solution of 4-biphenylboronic acid (6.36 g, 32.1 mmol) in EtOH (50 mL) were added sequentially. The mixture was heated at 80° C. for 18 hours, allowed to cool, and partitioned between CH2Cl2 and H2O. The aqueous layer was separated and extracted with CH2Cl2 two times. The combined organic layers were washed with brine, dried over Na2SO4, and concentrated to a crude product, which was dissolved in a minimal amount of CH2Cl2 and applied to a flash chromatography column packed with hexanes. Elution with 10% CH2Cl2 /hex led to some mixed fractions, which were rechromatographed. A total of 5.37 g (76%) of 3-(biphenyl-4-yl)furan was obtained as a pale yellow oil. 1H NMR: δ 8.28 (s, 1H), 7.64-7.55 (m, 6H), 7.50 (s, 1H), 7.45 (t, 2H, J=7.35Hz), 7.40 (t, 1H, J=7.35 Hz), 6.75 (s, 1H). Anal. calculated for C16H12O: C, 87.25; H, 5.49. Found: C, 87.15; H, 5.52.

reactant | 3-bromofuran | 32.1 mmol, 2.90 mL | BrC1=COC=C1 | C4H3BrO
reactant | benzene | 70 mL | C1=CC=CC=C1 | C6H6
reactant | Na2CO3 | 2N, 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-biphenylboronic acid | 32.1 mmol, 6.36 g | C1(=CC=C(C=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Tetrakis(triphenylphosphine) palladium(0) | 3.7 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(biphenyl-4-yl)furan | 5.37 g, 76% | C1(=CC=C(C=C1)C1=COC=C1)C1=CC=CC=C1 | C16H12O
